US08048899B2
A solution of 153 g (0.96 mol) of thioacetic acid S-(tetrahydro-pyran-4-yl)ester in ethanol (3.5 L) is degassed with nitrogen over 0.5 h and 125 g (2.23 mol) of KOH are added. Then a solution of 250 mL (1.68 mol) of ethyl α-bromoisobutyrate in EtOH (1 L) are added over 0.5 h, during which the temperature is increased to 40° C. The reaction is stirred for 18 h at room temperature under a nitrogen atmosphere. The reaction mixture is filtered, the solid is washed with ethanol (0.5 L) and the filtrate is concentrated under reduced pressure. The crude material is dryloaded onto silica and purified by dry-flash column chromatography (silica, eluent: n-heptanes, 2-10% ethyl acetate) to afford 158 g of 2-methyl-2-(tetrahydro-pyran-4-ylsulfanyl)-propionic acid ethyl ester as an orange-brown oil. Yield: 71%; ES-MS: m/z 233 [M+H]

reactant | thioacetic acid S-(tetrahydro-pyran-4-yl)ester | 0.96 mol, 153 g | O1CCC(CC1)SC(C)=O | C7H12O2S
reactant | KOH | 2.23 mol, 125 g | [OH-].[K+]
reactant | ethyl α-bromoisobutyrate | 1.68 mol, 250 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | ethanol | 3.5 L | C(C)O | C2H6O
solvent | EtOH | 1 L | CCO | C2H6O
product | 2-methyl-2-(tetrahydro-pyran-4-ylsulfanyl)-propionic acid ethyl ester | 158 g, Yield: 71% | C(C)OC(C(C)(SC1CCOCC1)C)=O | C11H20O3S
